US05525619
5-[4-(4,4,4-trifluorobutoxy)phenyl]-3-hydroxyethyl-1,3,4-oxadiazol-2(3H)-one
To a solution of 0.70 g of 5-[4-(4,4,4-trifluorobutoxy)phenyl]-3-methoxyethyl-1,3,4-oxadiazol-2(3H)-one in 10 ml of dichloromethane are added dropwise 1.2 g of boron tribromide. The mixture is left to react overnight and is then treated with aqueous sodium bicarbonate solution and extracted with dichloromethane. The organic phase is washed with water, dried over sodium sulphate and concentrated. The crude product obtained is purified on a column of silica with a 1/1 mixture of ethyl acetate and heptane. 200 mg of product are obtained.

reactant | 5-[4-(4,4,4-trifluorobutoxy)phenyl]-3-methoxyethyl-1,3,4-oxadiazol-2(3H)-one | 0.70 g | FC(CCCOC1=CC=C(C=C1)C1=NN(C(O1)=O)CCOC)(F)F | C15H17F3N2O4
reactant | boron tribromide | 1.2 g | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 5-[4-(4,4,4-trifluorobutoxy)phenyl]-3-hydroxyethyl-1,3,4-oxadiazol-2(3H)-one | 200 mg | FC(CCCOC1=CC=C(C=C1)C1=NN(C(O1)=O)CCO)(F)F | C14H15F3N2O4
